US05998433
f) Synthesis of N,N-dimethyl-[6-(4-benzoylphenylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(4-benzoylphenylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 79 mg was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | N,N-Dimethyl-[6-(4-benzoylphenylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 79 mg | CN(C)CC1=CC2=C(CN(CC2)S(=O)(=O)C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)O1 | C23H24N2O4S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[6-(4-benzoylphenylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)S(=O)(=O)C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)O1 | InChI=1S/C23H24N2O4S.ClH/c1-24(2)15-20-14-19-12-13-25(16-22(19)29-20)30(27,28)21-10-8-18(9-11-21)23(26)17-6-4-3-5-7-17;/h3-11,14H,12-13,15-16H2,1-2H3;1H
